US04971963
2,5-Dimercapto-1,3,4-thiadiazole (7.50 g) was dissolved in a mixture of 50 ml of ethanol and 50 ml of 1N-sodium hydroxide solution to which 4.15 ml of 3-bromopropionitrile was added under stirring. After stirring for 48 hours at room temperature, the mixture was concentrated under reduced pressure. The concentrate was extracted with ethyl acetate. The extract was dried over sodium sulfate and distilled off to remove the solvent. The residue was washed with ethyl ether to give 7.74 g of 2-(2-cyanoethylthio)-5-mercapto-1,3,4-thiadiazole as yellow crystals.

reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 7.50 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | 3-bromopropionitrile | 4.15 ml | BrCCC#N | C3H4BrN
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-(2-cyanoethylthio)-5-mercapto-1,3,4-thiadiazole | 7.74 g | C(#N)CCSC=1SC(=NN1)S | C5H5N3S3
